US04362740
7-Methylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one was prepared by a similar procedure to that of Example 8 except for the use of 7-methyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione obtained in Reference Example 11. Pale yellow needles [from C2H5OH--H2O (1:1)], mp 74°-75° C. Anal. Calcd. for C11H10OS: C, 69.44; H, 5.30. Found: C, 69.32; H, 5.07.

reactant | 7-methyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | CC1=CC=CC2=C1SC1(C(OCC1)=O)C2=O | C12H10O3S
solvent | C2H5OH H2O | C(C)O.O
product | 7-Methylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one | CC1=CC=CC2=C1SC1(CC1)C2=O | C11H10OS
